US05688815
3-Hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(2-hydroxy-phenyl)-methyl]-1H-pyridin-4-one
3-Benzyloxy-2-[(2-benzyloxy-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-.1H-pyridin-4-one: From 2.42 g of 3-benzyloxy-2-[(2-benzyloxy-phenyl)-(tetrahydropyran-2-yloxy)-methyl]-1-(2.-hydroxy-ethyl)-1H-pyridin-4-one there is obtained analogously to Example 6e, after chromatography: 3-benzyloxy-2-[(2-benzyloxy-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-1H-pyridin-4-one. Beige foam. Rf value: 0.17 (silica gel 60, ethyl acetate/ethanol 9/1).

reactant | 3-benzyloxy-2-[(2-benzyloxy-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C28H27NO5
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | 3-Hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(2-hydroxy-phenyl)-methyl]-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)C(C1=C(C=CC=C1)O)O | C14H15NO5
